US08114651B2
Isolation and Purification of L-Ile Hydroxylase
The buffer in the active fraction obtained in the previous step was changed to Buffer E (50 mM MES (pH 6.5), 10% of glycerol, 2 mM DTT, 1 mM EDTA, 1 M ammonium sulfate, Complete (Roche)). The this fraction was then applied to a Resource PHE column (1 ml, GE Healthcare Bio-Sciences) equilibrated beforehand with Buffer E. The column was washed with Buffer E, and then a fraction containing the enzyme having the Ile hydroxylation activity was eluted with Buffer F (50 mM MES (pH 6.5), 10% of glycerol, 2 mM DTT, 1 mM EDTA, Complete (Roche)) by using a reverse linear concentration gradient of ammonium sulfate.

reactant | MES | 50 mM, pH 6.5 | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
reactant | DTT | 2 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | ammonium sulfate | 1 M | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | glycerol | OCC(O)CO | C3H8O3
product | L-Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
